US04117019
A solution of 70 parts of xylyl chloride in 240 parts of benzene is added to a mixture of 60 parts of boron fluoride dihydrate and 250 parts of 75 per cent strength by weight sulfuric acid at from 75° to 78° C, whilst stirring vigorously. After 6 hours, the organic phase is separated off and 82 parts (91.1% of theory) of o-benzyl-toluene boiling at 98° C at 0.2 mm Hg are isolated by distillation.

reactant | xylyl chloride | C1(=C(C(=CC=C1)C)C)Cl | C8H9Cl
reactant | boron fluoride dihydrate | O.O.B(F)(F)F
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | o-benzyl-toluene | 91.1% | C(C1=CC=CC=C1)C1=C(C=CC=C1)C | C14H14
